US04997840
2-Chloro-5'-methoxy-4'-methyl-2'-(methylamino)acetophenone (10 g) is added at ambient temperature to a stirred mixture of acetic anhydride (23 ml) and formic acid (16 ml), previously stirred at 55° for a 1hour, and the resultant mixture is stirred for 2 hours at 20°. Water (80 ml) followed by aqueous sodium hydroxide (specific gravity 1.5, 60 ml) are added, whilst maintaining the temperature below 10°. The mixture is then extracted with dichloromethane to give a solution of 2'-(2-chloroacetyl)-4'-methoxy-5'-methyl-N-methylformanilide.

reactant | 2-Chloro-5'-methoxy-4'-methyl-2'-(methylamino)acetophenone | 10 g | ClCC(=O)C1=C(C=C(C(=C1)OC)C)NC | C11H14ClNO2
reactant | acetic anhydride | 23 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 16 ml | C(=O)O | CH2O2
reactant | sodium hydroxide | 60 ml | [OH-].[Na+]
solvent | Water | 80 ml | O | H2O
product | 2'-(2-chloroacetyl)-4'-methoxy-5'-methyl-N-methylformanilide | ClCC(=O)C1=C(N(C=O)C)C=C(C(=C1)OC)C | C12H14ClNO3
